US07217740B2
[5-[(E)-2-(2,4-difluorophenyl)vinyl]-2-(phenylsulfonyl)benzyl]dimethylamine
A solution of 5-[(E)-2-(2,4-difluorophenyl)vinyl]-2-(phenylsulfonyl)benzaldehyde (prepared from Example 58 according to the method of Example 50 Step 1, 100 mg, 0.26 mmol), dimethylamine hydrochloride (50 mg, 0.62 mmol), titanium(IV) isopropoxide (0.2 mL, 0.62 mmol) and triethylamine (0.1 mL, 0.62 mmol) in ethanol (2 mL) was stirred at room temperature overnight. Sodium cyanoborohydride (35 mg, 0.56 mmol) was added and the reaction stirred for a further 3 hours. The solvent was removed in vacuo and the residue partitioned between water and ethyl acetate. The organic layer was washed with brine, dried over MgSO4 and evaporated in vacuo. The residue was purified by flash column chromatography on silica, eluting with 0–3% methanol/dichloromethane, to give the title compound as a white solid. δH (360 MHz, d6 DMSO): 8.12 (1H, d, J=8.2 Hz), 7.93–7.81 (5H, m), 7.68–7.56 (3H, m), 7.38 (2H, s), 7.33–7.27 (1H, m), 7.14 (1H, td, J=2.4, 8.5 Hz), 3.57 (2H, s), 1.88 (6H, s). m/z (ES+) 414 [MH+].

reactant | 5-[(E)-2-(2,4-difluorophenyl)vinyl]-2-(phenylsulfonyl)benzaldehyde | FC1=C(C=CC(=C1)F)/C=C/C=1C=CC(=C(C=O)C1)S(=O)(=O)C1=CC=CC=C1 | C21H14F2O3S
reactant | dimethylamine hydrochloride | 0.62 mmol, 50 mg | Cl.CNC
reactant | triethylamine | 0.62 mmol, 0.1 mL | C(C)N(CC)CC | C6H15N
reactant | Sodium cyanoborohydride | 0.56 mmol, 35 mg | C(#N)[BH3-].[Na+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
catalyst | titanium(IV) isopropoxide | 0.62 mmol, 0.2 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | [5-[(E)-2-(2,4-difluorophenyl)vinyl]-2-(phenylsulfonyl)benzyl]dimethylamine | FC1=C(C=CC(=C1)F)/C=C/C=1C=CC(=C(CN(C)C)C1)S(=O)(=O)C1=CC=CC=C1 | C23H21F2NO2S
